US07220766B2
Step A: Methyl (2S)-2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)amino]-3-[4-({2-[(cyclohexylcarbonyl)(methyl)amino]ethyl}oxy)phenyl]propionate
N-(2-Hydroxyethyl)-N-methylcyclohexanecarboxyamide (0.19 g, 1.5 mmol), methyl (2S)-2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)amino]-3-(4-hydroxyphenyl)propionate (0.36 g, 1 mmol) and triphenylphosphine (0.79 g, 3 mmol) were dissolved in tetrahydrofuran (3 ml). After cooling to 5° C., ADDP (0.76 g, 3 mmol) was added to the reaction mixture. The reaction was then stirred at room temperature for 18–24 h. THF was evaporated to obtain crude title product.

reactant | N-(2-Hydroxyethyl)-N-methylcyclohexanecarboxyamide | 1.5 mmol, 0.19 g | OCCN(C(=O)CC1CCCCC1)C | C11H21NO2
reactant | methyl (2S)-2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)amino]-3-(4-hydroxyphenyl)propionate | 1 mmol, 0.36 g | O=S1(N=C(C2=C1C=CC=C2)N[C@H](C(=O)OC)CC2=CC=C(C=C2)O)=O | C17H16N2O5S
reactant | triphenylphosphine | 3 mmol, 0.79 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ADDP | 3 mmol, 0.76 g | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | Methyl (2S)-2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)amino]-3-[4-({2-[(cyclohexylcarbonyl)(methyl)amino]ethyl}oxy)phenyl]propionate | O=S1(N=C(C2=C1C=CC=C2)N[C@H](C(=O)OC)CC2=CC=C(C=C2)OCCN(C)C(=O)C2CCCCC2)=O | C27H33N3O6S
